US08017602B2
Step i) N-Cyclopentyl-N-(2,2-dimethoxyethyl)-3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (140 mg) was prepared from 3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 20 Step iii)] and N-(2,2-dimethoxyethyl)cyclopentanamine [Preparation 9] using a similar method to that described in Example 18, Step iii). MS [M+H-MeOH]+=426 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 8.01 and 8.00 (2×s, 1H), 7.79 (s, 1H), 7.40 (s, 1H), 7.36 (d, J=7.9 Hz, 1H), 7.23 (t, J=7.6 Hz, 1H), 7.05 (d, J=7.6 Hz, 1H), 4.56 and 4.37 (2×t, J=5.1 Hz, 1H), 4.53 (septet, J=6.8 Hz, 1H), 4.26-4.16 (m, 1H), 3.76-3.64 (m, 4H), 3.35 and 3.22 (2×d, J=5.1 Hz, 2H), 3.34 (s, 3H), 3.32 (s, 3H), 2.84 (t, J=6.7 Hz, 2H), 2.65 (t, J=6.2 Hz, 2H), 1.82-1.45 (m, 8H), 1.51 (d, J=6.8 Hz, 6H); a ˜2:1 mixture of rotamers is observed.

reactant | 3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | C(C)(C)N1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C17H22N2O3
reactant | N-(2,2-dimethoxyethyl)cyclopentanamine | COC(CNC1CCCC1)OC | C9H19NO2
product | N-Cyclopentyl-N-(2,2-dimethoxyethyl)-3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 140 mg | C1(CCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C(C)C)=O)CC(OC)OC | C26H39N3O4
